US07812040B2
3,5-Difluoro-4-(pyrrolidin-1-ylmethyl)phenol.
Pyrrolidine (6.6 mL, 80 mmol) was added to a solution of intermediate 20, 4-hydroxy-2,6-difluorobenzaldehyde (9.7 g, 61.3 mmol) in dichloromethane (100 mL). The reaction mixture was cooled on ice bath, and sodium triacetoxyborohydride (19.5 g, 925 mmol) was added in portions under stirring. The reaction mixture was intensively stirred for 24 h at RT. Water (100 mL) and concentrated HCl were added to attain pH˜2. The organic layer was separated. The aqueous one was extracted with CH2Cl2 (2×100 mL), then with EtOAc (100 mL). The organic layers were discarded. The aqueous fraction was alkalized with K2CO3 to pH˜10, the obtained crystals were separated by filtration, dried in vacuo, dissolved in small amount of water, HCl was added to attain pH˜7, and water layer was extracted with CHCl3 (2×100 mL). The organic layer was separated, washed with brine, dried with Na2SO4 and evaporated in vacuo to give the title compound (2.6 g, 20%, 12 mmol). LCMS data: 215 and 214 (M+H)+ (calculated for C11H13F2NO 213.23). 1H NMR data (DMSO-d6): 10.26 (br.s, 1H, OH), 6.38-6.46 (m, 2H, H—Ar), 3.52 (s, 2H, Ar—CH2); 2.35-2.44 (m, 4H), 1.58-1.68 (m, 4H).

reactant | Pyrrolidine | 80 mmol, 6.6 mL | N1CCCC1 | C4H9N
reactant | 4-hydroxy-2,6-difluorobenzaldehyde | 61.3 mmol, 9.7 g | OC1=CC(=C(C=O)C(=C1)F)F | C7H4F2O2
reactant | sodium triacetoxyborohydride | 925 mmol, 19.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | Water | 100 mL | O | H2O
product | 3,5-Difluoro-4-(pyrrolidin-1-ylmethyl)phenol | 12 mmol, 2.6 g, 20% | FC=1C=C(C=C(C1CN1CCCC1)F)O | C11H13F2NO
